US08258144B2
To a suspension of 1 ethyl 2-(6-nitro-2-oxo-3,4-dihydroquinolin-1(2H)-yl)acetate in EtOH (10 mL) and H2O (5 mL) was added ammonium formate (1.5 g, 23.8 mmol) and Fe (0.3 g, 5.4 mmol). After stirring at reflux for 2 h, the black mixture was filtered, the filtrate was diluted with EtOAc and water, EtOAc layer was separated and the aqueous layer was further extracted with EtOAc, organic layers were combined, dried over Na2SO4, and was concentrated in vacuo to provide ethyl 2-(6-amino-2-oxo-3,4-dihydroquinolin-1(2H)-yl)acetate (0.2 g, 31%).

reactant | ethyl 2-(6-nitro-2-oxo-3,4-dihydroquinolin-1(2H)-yl)acetate | [N+](=O)([O-])C=1C=C2CCC(N(C2=CC1)CC(=O)OCC)=O | C13H14N2O5
reactant | ammonium formate | 23.8 mmol, 1.5 g | C(=O)[O-].[NH4+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
catalyst | Fe | 5.4 mmol, 0.3 g | [Fe] | Fe
product | ethyl 2-(6-amino-2-oxo-3,4-dihydroquinolin-1(2H)-yl)acetate | 0.2 g, 31% | NC=1C=C2CCC(N(C2=CC1)CC(=O)OCC)=O | C13H16N2O3
